* Copyright (c) 1998-2023 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4510 1 2 3 4 5
R82 N046 4 1µ Noiseless
R47 N038 3 1µ Noiseless
G18 N020 N021 N026 N025 1m
R51 N021 N020 1k Noiseless
Cinp MID N007 {Ccm}
Cinn Inn1 MID {Ccm}
Rinp MID N007 {Rcm} Noiseless
G28 MID N020 N009 MID 1k
R72 MID N020 1m Noiseless
C42 N020 MID 1.59n
Cdiff N007 Inn1 {Cdiff}
C51 N025 MID 1f
C52 N026 MID 1f
Rdiff N007 Inn1 {Rdiff} Noiseless
Rinn Inn1 MID {Rcm} Noiseless
G7 0 Vcc_Int N038 0 1
G8 0 Vee_Int N046 0 1
R12 Vcc_Int 0 1 Noiseless
R15 Vee_Int 0 1 Noiseless
R32 N036 Vcc_Int 1Meg Noiseless
R33 N036 Vee_Int 1Meg Noiseless
C14 MID 0 1n
E1 MID 0 N036 0 1
R44 MID 0 1Meg Noiseless
F1 N007 MID VI_np 1
F2 Inn1 MID VI_nn 1
VI_np N044 0 0
VI_nn N055 0 0
R6 N047 VCM 1Meg Noiseless
R7 VCM N056 1Meg Noiseless
G1 MID N047 1 MID 1
G2 MID N056 2 MID 1
R8 N056 MID 1 Noiseless
R9 N047 MID 1 Noiseless
G3 MID N016 N007 MID 1k
R18 MID N016 1m Noiseless
C5 N016 MID 1p
C8 N036 0 100
S1 3 N016 N016 3 ESDI
S2 3 Inn1 Inn1 3 ESDI
S3 N016 4 4 N016 ESDI
S4 Inn1 4 4 Inn1 ESDI
R20 N017 N016 1k Noiseless
B3 N016 N017 I=1m*{Vos+Drift* (Temp-27)}
R21 N008 N017 1k Noiseless
B4 N017 N008 I=1m*(IF(V(3,VCM)<1.5, V(E_n_hi,MID), V(E_n_lo,MID)))
G4 N008 N009 N002 MID 1m
R22 N009 N008 1k Noiseless
R36 Vimon MID 1k Noiseless
C11 Vimon MID 100p
DGP N034 Va1 DG
DGN Va1 N035 DG
G11 MID N034 GRpi MID 1k
G14 MID N035 GRni MID 1k
R37 N034 MID 1m Noiseless
R38 N035 MID 1m Noiseless
R41 GRpi MID 1k Noiseless
R60 GRni MID 1k Noiseless
C12 GRni MID 10p
C13 GRpi MID 10p
I1 MID GRni {-1m*GRV}
I2 MID GRpi {1m*GRV}
C15 Va1 N034 1f
C16 Va1 N035 1f
DOP Vsatp N004 DO
DON N004 Vsatn DO
G17 MID Vsatp Satp MID 1k
R61 Vsatp MID 1m Noiseless
G23 MID Vsatn Satn MID 1k
R66 Vsatn MID 1m Noiseless
C17 Vsatp MID 1n
C18 Vsatn MID 1n
Rserp N007 N019 {Rser} Noiseless
Rsern Inn1 N031 {Rser} Noiseless
B2 MID N005 I=Uplim(Dnlim(V(Aol2,MID)*{gm1}*G1_Aol, {Isink}, {Eps}), {Isrc}, {Eps})
C23 Vee_Int 0 1n
C24 Vcc_Int 0 1n
S5 3 5 5 3 ESDO
S6 5 4 4 5 ESDO
C21 N019 MID 1f
G25 MID N010 Inn1 Inp1 1
COP N004 Vsatp 1p
CON N004 Vsatn 1p
C22 N031 MID 1f
C27 N002 N001 {C1a_CMR}
G12 MID N001 N007 MID {G1_CMR}
R54 N001 MID 1 Noiseless
R62 N002 N001 {R1a_CMR} Noiseless
R63 N002 MID {R2a_CMR} Noiseless
C4 N026 N027 {C1a_PSRp}
G5 MID N027 3 MID {G1_PSRp}
R23 N027 MID 1 Noiseless
R24 N026 N027 {R1a_PSRp} Noiseless
R25 N026 MID {R2a_PSRp} Noiseless
C9 N025 N024 {C1a_PSRp}
G6 MID N024 4 MID {G1_PSRp}
R26 N024 MID 1 Noiseless
R27 N025 N024 {R1a_PSRp} Noiseless
R28 N025 MID {R2a_PSRp} Noiseless
A1 MID MID MID MID MID MID N048 MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fA}/(freq**{M})
R29 N048 MID 100k Noiseless
A2 MID N048 MID MID MID MID N051 MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={BB}
R30 N051 MID 100k Noiseless
R34 N057 MID 100k Noiseless
A3 MID MID MID MID MID MID N057 MID OTA G=10u Iout=1m En={En} Enk={Enk} Vhigh=1k Vlow=-1k
G9 0 N043 N042 MID 1
R10 N043 N044 1 Noiseless
R13 N041 MID 100k Noiseless
A4 MID MID MID MID MID MID N041 MID OTA G=10u Iout=1m En={Eni} Vhigh=1k Vlow=-1k
G10 MID N039 N041 MID 1
R14 N039 N040 {R1b_I_n} Noiseless
R16 N040 MID {R2b_I_n} Noiseless
C10 N040 N039 {C1b_I_n}
R17 N039 MID 1 Noiseless
G15 MID N042 N040 MID {G3_I_n}
R35 N042 MID 1 Noiseless
G19 0 N054 N053 MID 1
R1 N054 N055 1 Noiseless
R2 N052 MID 100k Noiseless
A5 MID MID MID MID MID MID N052 MID OTA G=10u Iout=1m En={Eni} Vhigh=1k Vlow=-1k
G20 MID N049 N052 MID 1
R4 N049 N050 {R1b_I_n} Noiseless
R5 N050 MID {R2b_I_n} Noiseless
C28 N050 N049 {C1b_I_n}
R52 N049 MID 1 Noiseless
G22 MID N053 N050 MID {G3_I_n}
R55 N053 MID 1 Noiseless
I4 N007 Inn1 {Ios}
BHot N033 0 I={Iba2}/(1+Exp({Ibb2}-{Ibc2}*Temp))
BCold N033 0 I={Iba1}*({Ibb1}-Exp({-Ibc1}*Temp))
BIbp N007 MID I=Dnlim(I(BHot),I(BCold),1p)
R56 N033 0 1
BIbn Inn1 MID I=Dnlim(I(BHot),I(BCold),1p)
BIsy N038 N046 I=Table(V(3,4), 2, 0, 2.5, 40u, 3, 360u, 3.4, 926u, 4, 1m, 4.2, 1.04m, 5, 1.27m, 5.4, 1.4m, 5.7, 1.42m, 7, 1.435m, 8, 1.438m, 9, 1.448m, 45, 1.47m)
Rs N004 5 1µ
B5 MID Vimon I=1m*I(Rs)
R70 Aol2 N022 1k Noiseless
C32 Aol2 N028 {Cp3}
R71 N028 MID 700 Noiseless
R73 Va1 MID {Ro1} Noiseless
C33 Va1 MID {Co1}
C34 Va1 N029 {CLead}
R74 N029 MID {RLead} Noiseless
C35 N004 MID {Co2}
Gmcas1 MID Va1 N005 MID {gmcas}
R75 N005 MID {1/gmcas} Noiseless
R76 N006 N005 {Rzcas} Noiseless
R77 N003 Va1 {Rz} Noiseless
C36 N004 N003 {(1-CmillerCasRatio + 1e-6)*Cmiller}
C38 N004 N006 {(CmillerCasRatio + 1e-6)*Cmiller}
R78 N004 MID {Ro2} Noiseless
R80 N010 MID 1 Noiseless
R81 N010 N011 {R1a_Aol} Noiseless
R83 N011 MID {R2a_Aol} Noiseless
C40 N011 N010 {C1a_Aol}
C41 N005 MID 55p
R84 N022 MID 1 Noiseless
G26 MID N012 N011 MID {G1_Aol}
R91 N012 MID 1 Noiseless
R92 N012 N013 {R1b_Aol} Noiseless
R93 N013 MID {R2b_Aol} Noiseless
C43 N013 N012 {C1b_Aol}
G27 MID N014 N013 MID {G2_Aol}
C44 N005 MID 25p
R94 N014 MID 1 Noiseless
R95 N014 N015 {R1b_Aol} Noiseless
R96 N015 MID {R2b_Aol} Noiseless
C45 N015 N014 {C1b_Aol}
G29 MID N022 N015 MID {G2_Aol}
G16 MID Inp1 N021 MID 1m
R3 MID Inp1 1k Noiseless
C1 Inp1 MID 1p
D1 CMp Inp1 DO
D2 Inp1 CMn DO
I5 3 CMp {1k*Vcm_max}
R19 3 CMp 1m
C2 3 CMp 1n
I6 4 CMn {1k*Vcm_min}
R31 4 CMn 1m
C3 4 CMn 1n
A6 MID N057 MID MID MID MID E_n_hi MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=Table(freq, 100k, 0, 500k, 3n, 800k, 4n, 1Meg, 4.5n, 2Meg, 8n, 3Meg, 9n, 5Meg, 8n, 8Meg, 7n, 10Meg, 6n, 13Meg, 5n, 15Meg, 12n, 16Meg, 16n, 17Meg, 20n, 20Meg, 50n, 22Meg, 65n, 23Meg, 65n, 30Meg, 105n, 40Meg, 165n, 50Meg, 210n, 80Meg, 280n, 90Meg, 290n, 100Meg, 280n)
R11 E_n_hi MID 100k Noiseless
A7 MID N051 MID MID MID MID E_n_lo MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=Table(freq, 100k, 0, 1Meg, 2n, 2Meg, 3n, 6Meg, 4n, 10Meg, 3n, 13Meg, 6n, 16Meg, 18n, 20Meg, 50n, 30Meg, 75n, 50Meg, 130n, 100Meg, 200n)
R39 E_n_lo MID 100k Noiseless
R42 N019 1 1µ Noiseless
R43 N031 2 1µ Noiseless
B1 MID N004 I=Uplim(Dnlim({-gm2*k_gm2}* V(Va1,MID), {Iscn}, 1m), {Iscp}, 1m)
B6 Satp1 3 I=1m*Dnlim(Mp1*(V(Vimon, MID))+OSp1,OSp1,1m)
R40 Satp1 3 1k
C6 Satp1 3 1n
R46 Satp2 3 1k
C7 Satp2 3 1n
B7 MID Satp I=1m*Uplim(V(Satp1,MID), V(Satp2,MID),1m)
R49 Satp MID 1k
C19 Satp MID 1n
B8 Satp2 3 I=1m*Dnlim(Mp2*(V(Vimon, MID))+OSp2,OSp1,1m)
B9 4 Satn1 I=1m*Dnlim(Mn1*(-V(Vimon, MID))+OSn1,OSn1,1m)
R50 Satn1 4 1k
C20 Satn1 4 1n
R53 Satn2 4 1k
C25 Satn2 4 1n
B10 MID Satn I=1m*Dnlim(V(Satn1,MID), Dnlim(V(Satn2,MID), V(Satn3,MID),1m),1m)
R57 Satn MID 1k
C26 Satn MID 1n
R58 Satn3 4 1k
C29 Satn3 4 1n
B11 4 Satn2 I=1m*Dnlim(Mn2*(-V(Vimon, MID))+OSn2,OSn1,1m)
B12 4 Satn3 I=1m*Dnlim(Mn3*(-V(Vimon, MID))+OSn3,OSn1,1m)
.param Vos=1u Drift=66n
.param Ios=250f
.param Vcm_min=-150m Vcm_max=0
.param Vs_min=6 Vs_max=40
.param Iscp=55m Iscn=-70m
.param Rser=0.1
.param Ccm=2p Rcm=10T
.param Cdiff=20p Rdiff=1T
.model DG D(Vfwd=1k Vrev=0 Revepsilon=0.5 Ron=1m Noiseless)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model ESDI SW(Ron=50 Roff=1T Vt=700m Vh=-350m Vser=0.1 Noiseless)
.model ESDO SW(Ron=50 Roff=1T Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.model LIM D(Vfwd=1n Vrev=1n Ron=1m Roff=1m Ilimit={Iscp} Revilimit={-Iscn} Epsilon=1u Noiseless)
.param GRV=25
.param Isrc=875u Isink=-875u
.param Eps=90u
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=147.7
.param R1a_CMR=100Meg
.param fz1_CMR=325
.param fp1_CMR=150k
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=140
.param R1a_PSRp=100Meg
.param fz1_PSRp=2
.param fp1_PSRp=22Meg
.param BB=4.7n fC=200 M=0.52 fA={BB*(fC**M)}
.param En=6.5n Enk=1k
.param Eni=4f
.param R1b_I_n=10k
.param fz2_I_n=135
.param fp2_I_n=3.55Meg
.param C1b_I_n = {1 / (2 * pi * R1b_I_n * fz2_I_n)}
.param R2b_I_n = {R1b_I_n/ ((2 * pi * fp2_I_n * C1b_I_n
+* R1b_I_n) - 1)}
.param actual2_I_n = {R2b_I_n / (R1b_I_n + R2b_I_n)}
.param G3_I_n = {1/actual2_I_n}
.param Iba1=-127f Ibb1=-25.8 Ibc1=-81.4m
.param Iba2=57.4n Ibb2=13.8 Ibc2=95.7m
.param fp3=15Meg
.param Cp3={1/(2*pi*1k*fp3)}
.param gm1=2.8m
.param Ro1=38Meg
.param Co1=30p
.param gmcas=9m
.param gm2=9.44m
.parak k_gm2=1
.param Ro2=1G
.param Co2= 12p
.param Rz=75
.param Rzcas=137.5
.param Cmiller=45p
.param CmillerCasRatio=0.7
.param Rlead=1.8k
.param Clead=43p
.param R1a_Aol=1Meg
.param fz1_Aol=5.5Meg
.param fp1_Aol=5.8Meg
.param C1a_Aol = {1 / (2 * pi * R1a_Aol * fz1_Aol)}
.param R2a_Aol = {R1a_Aol/ ((2 * pi * fp1_Aol * C1a_Aol
+* R1a_Aol) - 1)}
.param actual1_Aol = {R2a_Aol / (R1a_Aol + R2a_Aol)}
.param G1_Aol={1/actual1_Aol}
.param R1b_Aol=1Meg
.param fz2_Aol=45Meg
.param fp2_Aol=150Meg
.param C1b_Aol = {1 / (2 * pi * R1b_Aol * fz2_Aol)}
.param R2b_Aol = {R1b_Aol/ ((2 * pi * fp2_Aol * C1b_Aol
+* R1b_Aol) - 1)}
.param actual2_Aol = {R2b_Aol / (R1b_Aol + R2b_Aol)}
.param G2_Aol={1/actual2_Aol}
.param Mp1=39.7 OSp1=17.5m
.param Mp2=48.5 OSp2=-41.5m
.param Mn1=27 OSn1=14.3m
.param Mn2=30.53 OSn2=7.26m
.param Mn3=45.6 OSn3=-400m
.ends ADA4510
