* Copyright (c) 1998-2023 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4510 1 2 3 4 5
R82 N043 4 1µ Noiseless
R47 N035 3 1µ Noiseless
Cinp MID N007 {Ccm}
Cinn Inn1 MID {Ccm}
Rinp MID N007 {Rcm} Noiseless
Cdiff N007 Inn1 {Cdiff}
Rdiff N007 Inn1 {Rdiff} Noiseless
Rinn Inn1 MID {Rcm} Noiseless
G7 0 Vcc_Int N035 0 1
G8 0 Vee_Int N043 0 1
R12 Vcc_Int 0 1 Noiseless
R15 Vee_Int 0 1 Noiseless
R32 N033 Vcc_Int 1Meg Noiseless
R33 N033 Vee_Int 1Meg Noiseless
C14 MID 0 1n
E1 MID 0 N033 0 1
R44 MID 0 1Meg Noiseless
C8 N033 0 100
R36 Vimon MID 1k Noiseless
C11 Vimon MID 100p
DGP N031 Va1 DG
DGN Va1 N032 DG
G11 MID N031 GRpi MID 1k
G14 MID N032 GRni MID 1k
R37 N031 MID 1m Noiseless
R38 N032 MID 1m Noiseless
R41 GRpi MID 1k Noiseless
R60 GRni MID 1k Noiseless
C12 GRni MID 10p
C13 GRpi MID 10p
I1 MID GRni {-1m*GRV}
I2 MID GRpi {1m*GRV}
C15 Va1 N031 1f
C16 Va1 N032 1f
DOP Vsatp N004 DO
DON N004 Vsatn DO
G17 MID Vsatp Satp MID 1k
R61 Vsatp MID 1m Noiseless
G23 MID Vsatn Satn MID 1k
R66 Vsatn MID 1m Noiseless
C17 Vsatp MID 1n
C18 Vsatn MID 1n
Rserp N007 1 {Rser} Noiseless
Rsern Inn1 2 {Rser} Noiseless
B2 MID N005 I=Uplim(Dnlim(V(Aol2,MID)*{gm1}*G1_Aol, {Isink}, {Eps}), {Isrc}, {Eps})
C23 Vee_Int 0 1n
C24 Vcc_Int 0 1n
C21 1 MID 1f
COP N004 Vsatp 1p
CON N004 Vsatn 1p
C22 2 MID 1f
Rs N004 5 1m
B5 MID Vimon I=1m*I(Rs)
R70 Aol2 N021 1k Noiseless
C32 Aol2 N027 {Cp3}
R71 N027 MID 700 Noiseless
R73 Va1 MID {Ro1} Noiseless
C33 Va1 MID {Co1}
C34 Va1 N028 {CLead}
R74 N028 MID {RLead} Noiseless
C35 N004 MID {Co2}
Gmcas1 MID Va1 N005 MID {gmcas}
R75 N005 MID {1/gmcas} Noiseless
R76 N006 N005 {Rzcas} Noiseless
R77 N003 Va1 {Rz} Noiseless
C36 N004 N003 {(1-CmillerCasRatio + 1e-6)*Cmiller}
C38 N004 N006 {(CmillerCasRatio + 1e-6)*Cmiller}
R78 N004 MID {Ro2} Noiseless
R81 N010 N011 {R1a_Aol} Noiseless
R83 N011 MID {R2a_Aol} Noiseless
C40 N011 N010 {C1a_Aol}
C41 N005 MID 55p
R84 N021 MID 1 Noiseless
G26 MID N012 N011 MID {G1_Aol}
R91 N012 MID 1 Noiseless
R92 N012 N013 {R1b_Aol} Noiseless
R93 N013 MID {R2b_Aol} Noiseless
C43 N013 N012 {C1b_Aol}
G27 MID N014 N013 MID {G2_Aol}
C44 N005 MID 25p
R94 N014 MID 1 Noiseless
R95 N014 N015 {R1b_Aol} Noiseless
R96 N015 MID {R2b_Aol} Noiseless
C45 N015 N014 {C1b_Aol}
G29 MID N021 N015 MID {G2_Aol}
D1 CMp Inp1 DO
D2 Inp1 CMn DO
I5 3 CMp {1k*Vcm_max}
R19 3 CMp 1m
C2 3 CMp 1n
I6 4 CMn {1k*Vcm_min}
R31 4 CMn 1m
C3 4 CMn 1n
B1 MID N004 I=Uplim(Dnlim({-gm2*k_gm2}* V(Va1,MID), {Iscn}, 1m), {Iscp}, 1m)
B6 Satp1 3 I=1m*Dnlim(Mp1*(V(Vimon, MID))+OSp1,OSp1,1m)
R40 Satp1 3 1k
C6 Satp1 3 1n
R46 Satp2 3 1k
C7 Satp2 3 1n
B7 MID Satp I=1m*Uplim(V(Satp1,MID), V(Satp2,MID),1m)
R49 Satp MID 1k
C19 Satp MID 1n
B8 Satp2 3 I=1m*Dnlim(Mp2*(V(Vimon, MID))+OSp2,OSp1,1m)
B9 4 Satn1 I=1m*Dnlim(Mn1*(-V(Vimon, MID))+OSn1,OSn1,1m)
R50 Satn1 4 1k
C20 Satn1 4 1n
R53 Satn2 4 1k
C25 Satn2 4 1n
B10 MID Satn I=1m*Dnlim(V(Satn1,MID), Dnlim(V(Satn2,MID), V(Satn3,MID),1m),1m)
R57 Satn MID 1k
C26 Satn MID 1n
R58 Satn3 4 1k
C29 Satn3 4 1n
B11 4 Satn2 I=1m*Dnlim(Mn2*(-V(Vimon, MID))+OSn2,OSn1,1m)
B12 4 Satn3 I=1m*Dnlim(Mn3*(-V(Vimon, MID))+OSn3,OSn1,1m)
Bsrc N035 0 I=Dnlim(I(Rs), 0,1u)
Bsink N043 0 I=Uplim(I(Rs), 0,1u)
BIsy N035 N043 I=Table(V(3,4), 2, 0, 2.5, 40u, 3, 360u, 3.4, 926u, 4, 1m, 4.2, 1.04m, 5, 1.27m, 5.4, 1.4m, 5.7, 1.42m, 7, 1.435m, 8, 1.438m, 9, 1.448m, 45, 1.47m)
I4 N007 Inn1 {Ios}
G1 MID N016 N007 MID 1k
R1 MID N016 1m Noiseless
C1 N016 MID 1p
BHot N030 0 I={Iba2}/(1+Exp({Ibb2}-{Ibc2}*Temp))
BCold N030 0 I={Iba1}*({Ibb1}-Exp({-Ibc1}*Temp))
R2 N030 0 1
BIbp N007 MID I=Dnlim(I(BHot),I(BCold),1p)
BIbn Inn1 MID I=Dnlim(I(BHot),I(BCold),1p)
A1 MID MID MID MID MID MID N044 MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fA}/(freq**{M})
R3 N044 MID 100k Noiseless
A2 MID N044 MID MID MID MID N045 MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={BB}
R4 N045 MID 100k Noiseless
R5 N053 MID 100k Noiseless
A3 MID MID MID MID MID MID N053 MID OTA G=10u Iout=1m En={En} Enk={Enk} Vhigh=1k Vlow=-1k
A4 MID N053 MID MID MID MID E_n_hi MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=Table(freq, 100k, 0, 500k, 3n, 800k, 4n, 1Meg, 4.5n, 2Meg, 8n, 3Meg, 9n, 5Meg, 8n, 8Meg, 7n, 10Meg, 6n, 13Meg, 5n, 15Meg, 12n, 16Meg, 16n, 17Meg, 20n, 20Meg, 50n, 22Meg, 65n, 23Meg, 65n, 30Meg, 105n, 40Meg, 165n, 50Meg, 210n, 80Meg, 280n, 90Meg, 290n, 100Meg, 280n)
R6 E_n_hi MID 100k Noiseless
A5 MID N045 MID MID MID MID E_n_lo MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=Table(freq, 100k, 0, 1Meg, 2n, 2Meg, 3n, 6Meg, 4n, 10Meg, 3n, 13Meg, 6n, 16Meg, 18n, 20Meg, 50n, 30Meg, 75n, 50Meg, 130n, 100Meg, 200n)
R7 E_n_lo MID 100k Noiseless
VI_np N041 0 0
VI_nn N051 0 0
G2 0 N040 N039 MID 1
R8 N040 N041 1 Noiseless
R9 N038 MID 100k Noiseless
A6 MID MID MID MID MID MID N038 MID OTA G=10u Iout=1m En={Eni} Vhigh=1k Vlow=-1k
G3 MID N036 N038 MID 1
R10 N036 N037 {R1b_I_n} Noiseless
R11 N037 MID {R2b_I_n} Noiseless
C4 N037 N036 {C1b_I_n}
R13 N036 MID 1 Noiseless
G4 MID N039 N037 MID {G3_I_n}
R14 N039 MID 1 Noiseless
G5 0 N050 N049 MID 1
R16 N050 N051 1 Noiseless
R17 N048 MID 100k Noiseless
A7 MID MID MID MID MID MID N048 MID OTA G=10u Iout=1m En={Eni} Vhigh=1k Vlow=-1k
G6 MID N046 N048 MID 1
R18 N046 N047 {R1b_I_n} Noiseless
R20 N047 MID {R2b_I_n} Noiseless
C5 N047 N046 {C1b_I_n}
R21 N046 MID 1 Noiseless
G9 MID N049 N047 MID {G3_I_n}
R22 N049 MID 1 Noiseless
F1 N007 MID VI_np 1
F2 Inn1 MID VI_nn 1
G10 MID N019 N009 MID 1k
R23 MID N019 1m Noiseless
C9 N019 MID 1.59n
S5 3 5 5 3 ESDO
S6 5 4 4 5 ESDO
R24 N052 VCM 1Meg Noiseless
R25 VCM N054 1Meg Noiseless
G12 MID N052 1 MID 1
G13 MID N054 2 MID 1
R26 N054 MID 1 Noiseless
R27 N052 MID 1 Noiseless
R28 N008 N017 1k Noiseless
B3 N017 N008 I=1m*(IF(V(3,VCM)<1.5, V(E_n_hi,MID), V(E_n_lo,MID)))
R29 N017 N016 1k Noiseless
B4 N016 N017 I=1m*{Vos+Drift* (Temp-27)}
G15 N008 N009 N002 MID 1m
R30 N009 N008 1k Noiseless
C10 N002 N001 {C1a_CMR}
G16 MID N001 N007 MID {G1_CMR}
R34 N001 MID 1 Noiseless
R35 N002 N001 {R1a_CMR} Noiseless
R39 N002 MID {R2a_CMR} Noiseless
G18 N019 N020 N025 N024 1m
R42 N020 N019 1k Noiseless
C27 N024 MID 1f
C28 N025 MID 1f
C30 N025 N026 {C1a_PSRp}
G19 MID N026 3 MID {G1_PSRp}
R43 N026 MID 1 Noiseless
R45 N025 N026 {R1a_PSRp} Noiseless
R48 N025 MID {R2a_PSRp} Noiseless
C31 N024 N023 {C1a_PSRp}
G20 MID N023 4 MID {G1_PSRp}
R51 N023 MID 1 Noiseless
R52 N024 N023 {R1a_PSRp} Noiseless
R54 N024 MID {R2a_PSRp} Noiseless
G21 MID Inp1 N020 MID 1m
R55 MID Inp1 1k Noiseless
C37 Inp1 MID 1f
G22 MID N010 Inn1 Inp1 1
R64 N010 MID 1
.param Vos=1u Drift=66n
.param Ios=250f
.param Vcm_min=-150m Vcm_max=0
.param Vs_min=6 Vs_max=40
.param Iscp=55m Iscn=-70m
.param Rser=0.1
.param Ccm=2p Rcm=10T
.param Cdiff=20p Rdiff=1T
.model DG D(Vfwd=1k Vrev=0 Revepsilon=0.5 Ron=1m Noiseless)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model ESDO SW(Ron=50 Roff=1T Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.param GRV=25
.param Isrc=875u Isink=-875u
.param Eps=90u
.param fp3=15Meg
.param Cp3={1/(2*pi*1k*fp3)}
.param gm1=2.8m
.param Ro1=38Meg
.param Co1=30p
.param gmcas=9m
.param gm2=9.44m
.parak k_gm2=1
.param Ro2=1G
.param Co2= 12p
.param Rz=75
.param Rzcas=137.5
.param Cmiller=45p
.param CmillerCasRatio=0.7
.param Rlead=1.8k
.param Clead=43p
.param R1a_Aol=1Meg
.param fz1_Aol=5.5Meg
.param fp1_Aol=5.8Meg
.param C1a_Aol = {1 / (2 * pi * R1a_Aol * fz1_Aol)}
.param R2a_Aol = {R1a_Aol/ ((2 * pi * fp1_Aol * C1a_Aol
+* R1a_Aol) - 1)}
.param actual1_Aol = {R2a_Aol / (R1a_Aol + R2a_Aol)}
.param G1_Aol={1/actual1_Aol}
.param R1b_Aol=1Meg
.param fz2_Aol=45Meg
.param fp2_Aol=150Meg
.param C1b_Aol = {1 / (2 * pi * R1b_Aol * fz2_Aol)}
.param R2b_Aol = {R1b_Aol/ ((2 * pi * fp2_Aol * C1b_Aol
+* R1b_Aol) - 1)}
.param actual2_Aol = {R2b_Aol / (R1b_Aol + R2b_Aol)}
.param G2_Aol={1/actual2_Aol}
.param Mp1=39.7 OSp1=17.5m
.param Mp2=48.5 OSp2=-41.5m
.param Mn1=27 OSn1=14.3m
.param Mn2=30.53 OSn2=7.26m
.param Mn3=45.6 OSn3=-400m
.param Iba1=-127f Ibb1=-25.8 Ibc1=-81.4m
.param Iba2=57.4n Ibb2=13.8 Ibc2=95.7m
.param BB=4.7n fC=200 M=0.52 fA={BB*(fC**M)}
.param En=6.5n Enk=1k
.param Eni=4f
.param R1b_I_n=10k
.param fz2_I_n=135
.param fp2_I_n=3.55Meg
.param C1b_I_n = {1 / (2 * pi * R1b_I_n * fz2_I_n)}
.param R2b_I_n = {R1b_I_n/ ((2 * pi * fp2_I_n * C1b_I_n
+* R1b_I_n) - 1)}
.param actual2_I_n = {R2b_I_n / (R1b_I_n + R2b_I_n)}
.param G3_I_n = {1/actual2_I_n}
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=140
.param R1a_CMR=100Meg
.param fz1_CMR=800
.param fp1_CMR=8Meg
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=140
.param R1a_PSRp=100Meg
.param fz1_PSRp=2
.param fp1_PSRp=22Meg
.ends ADA4510
